US03998807
In this example a solution of 5.09 g (10 mmol) of 1-(3'-O-stearoyl-β-D-arabinofuranosyl)-cytosine in warm ethanol is treated with a 10% excess (11 mmoles) methanolic hydrogen chloride. Crystallization of the resulting hydrochloride is completed by addition of ether and the resulting product is recrystallized from ethanol giving 1-(3'-O-stearoyl-β-D-arabinofuranosyl)cytosine hydrochloride.

reactant | 1-(3'-O-stearoyl-β-D-arabinofuranosyl)-cytosine | 10 mmol, 5.09 g | C(CCCCCCCCCCCCCCCCC)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1CO)N1C(=O)N=C(N)C=C1)O | C27H47N3O6
reactant | hydrogen chloride | 11 mmoles | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-(3'-O-stearoyl-β-D-arabinofuranosyl)cytosine hydrochloride | Cl.C(CCCCCCCCCCCCCCCCC)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1CO)N1C(=O)N=C(N)C=C1)O | InChI=1S/C27H47N3O6.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-23(32)36-25-21(20-31)35-26(24(25)33)30-19-18-22(28)29-27(30)34;/h18-19,21,24-26,31,33H,2-17,20H2,1H3,(H2,28,29,34);1H/t21-,24+,25-,26-;/m1./s1
